US08017607B2
To a solution of rac (2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile (42.1 mg, 0.10 mmol) in DMF (3 mL) was added potassium carbonate (43.3 mg, 0.313 mmol) and the reaction mixture was stirred at rt under argon for 21 hrs. The reaction mixture was diluted with ethyl acetate and washed with water (2×) and brine. The organic phase was separated, filtered and dried over Na2SO4. The mixture was then concentrated and purified by flash chromatography to give rac [(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidin-1-yl]-acetic acid ethyl ester (22.3 mg, 44.2%,) as a white amorphous solid. HRMS (ES+) m/z Calcd for C26H28Cl2F2N2O2+H [(M+H)+]: 509.1569; Found: 509.1569.

reactant | rac (2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile | 0.10 mmol, 42.1 mg | ClC=1C(=C(C=CC1)C1NCC(C1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)F | C22H22Cl2F2N2
reactant | potassium carbonate | 0.313 mmol, 43.3 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | rac [(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidin-1-yl]-acetic acid ethyl ester | 22.3 mg, 44.2% | C(C)OC(CN1[C@@H]([C@@]([C@@H](C1)CC(C)(C)C)(C#N)C1=C(C=C(C=C1)Cl)F)C1=C(C(=CC=C1)Cl)F)=O | C26H28Cl2F2N2O2
